US04624955
3-(4-Chlorophenyl)-6-ethyl-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine
4-Chloro-5-(4-chlorobenzoyl)-1-ethyl-1H-pyrazolo[3,4-b]pyridine (3.76 g) was suspended in 75 ml of glacial acetic acid, and to this was added 1.05 g of hydroxylamine hydrochloride. The reaction mixture was stirred overnight at 80° and the next morning yet another 1.05 g of hydroxylamine hydrochloride was added. After stirring the mixture for additional two hours the solvent was evaporated and the residue washed first with sodium bicarbonate solution and then methanol. The resulting product was then chromatographed over 230-400 mesh silica gel (10% ethyl acetate/dichloromethane), giving 1.51 g of product, mp 248°-250° C.

reactant | 4-Chloro-5-(4-chlorobenzoyl)-1-ethyl-1H-pyrazolo[3,4-b]pyridine | 3.76 g | ClC1=C2C(=NC=C1C(C1=CC=C(C=C1)Cl)=O)N(N=C2)CC | C15H11Cl2N3O
reactant | hydroxylamine hydrochloride | 1.05 g | Cl.NO
reactant | hydroxylamine hydrochloride | 1.05 g | Cl.NO
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Chlorophenyl)-6-ethyl-6H-isoxazolo[3,4-d]pyrazolo[3,4-b]pyridine | 1.51 g | ClC1=CC=C(C=C1)C=1ON=C2C3=C(N=CC21)N(N=C3)CC | C15H11ClN4O
